US09399623B2
6-Chloro-2-cyclopent-1-enyl-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexyl methyl)-amide (42)
2,6-Dichloro-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide (300 mg, 0.74 mmol, 1.00 eq) in 1,4-Dioxane (6 mL, 69.44 mmol, 20 V)/Water (2 mL, 111.02 mmol, 6.67 V) was taken in a microwave vial and to this were added Cesium fluoride (338.80 mg, 2.23 mmol, 3.00 eq) and 2-Cyclopent-1-enyl-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (172.97 mg, 0.89 mmol, 1.20 eq). The reaction mixture was purged with nitrogen for 15 min and bis(triphenyl phosphine)palladium (II) dichloride (25.16 mg, 0.04 mmol, 0.05 eq) was added and heated under microwave at 130 OC for 1 h. The reaction mixture was concentrated and the crude obtained was purified by flash column chromatography to afford the title compound (12 mg, 0.03 mmol, 3.9%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 8.85 (t, J=5.64 Hz, 1H), 7.95-7.98 (m, 3H), 7.75 (d, J=9.0 Hz, 1H), 6.88 (s, 1H), 3.26-3.29 (m, 2H), 2.85-2.89 (m, 2H), 2.60 (s, 2H), 1.96-2.04 (m, 4H), 1.81-1.86 (m, 3H), 1.74-1.77 (m, 2H), 1.23-1.33 (m, 2H). m/z: 405 [M+H]+

reactant | 2,6-Dichloro-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide | 0.74 mmol, 300 mg, 1.00 eq | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)Cl)F | C17H16Cl2F2N2O
reactant | 1,4-Dioxane | 69.44 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | Water | 111.02 mmol, 2 mL | O | H2O
reactant | Cesium fluoride | 2.23 mmol, 338.80 mg, 3.00 eq | [F-].[Cs+]
reactant | 2-Cyclopent-1-enyl-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 0.89 mmol, 172.97 mg, 1.20 eq | C1(=CCCC1)B1OC(C(O1)(C)C)(C)C | C11H19BO2
catalyst | bis(triphenyl phosphine)palladium (II) dichloride | 0.04 mmol, 25.16 mg, 0.05 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-Chloro-2-cyclopent-1-enyl-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexyl methyl)-amide | 0.03 mmol, 12 mg, 3.9% | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C1=CCCC1)F | C22H23ClF2N2O
